US09289430B2
2-nitro-5-(piperidin-1-yl)-N-(1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzamide
Into a 100-mL round bottom flask, was placed a solution of 5-chloro-2-nitro-N-(1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzamide (500 mg, 1.21 mmol, 1.00 equiv) in N,N-dimethylformamide (10 mL), and piperidine (500 mg, 5.88 mmol, 4.84 equiv). The resulting solution was stirred overnight at 90° C. The resulting mixture was concentrated under vacuum. The residue was dissolved in 30 mL of ethyl acetate. The resulting mixture was washed with 2×50 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in 500 mg (90%) of product as white oil.

reactant | 5-chloro-2-nitro-N-(1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzamide | 1.21 mmol, 500 mg, 1.00 equiv | ClC=1C=CC(=C(C(=O)NC2=NN(C=N2)C2=CC(=CC=C2)C(F)(F)F)C1)[N+](=O)[O-] | C16H9ClF3N5O3
reactant | piperidine | 5.88 mmol, 500 mg, 4.84 equiv | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-nitro-5-(piperidin-1-yl)-N-(1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzamide | 500 mg, 90% | [N+](=O)([O-])C1=C(C(=O)NC2=NN(C=N2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C21H19F3N6O3
